US06114532
c. ethyl(4-chlorophenyl)-n-pentyl-phosphinate
3.5 g (15 mmol) of diethyl(4-chlorophenyl)-phosphonate and 3 ml (24.7 mmol) of n-pentylbromide are heated to 150° C. for 90 minutes with stirring. The cooled clear solution is chromatographed on silica gel and eluted with cyclohexane/ethyl acetate (7:3 to 1:1).

reactant | diethyl(4-chlorophenyl)-phosphonate | 15 mmol, 3.5 g | C(C)OP(OCC)(=O)C1=CC=C(C=C1)Cl | C10H14ClO3P
reactant | n-pentylbromide | 24.7 mmol, 3 ml | C(CCCC)Br | C5H11Br
product | ethyl(4-chlorophenyl)-n-pentyl-phosphinate | C(C)OP(=O)(CCCCC)C1=CC=C(C=C1)Cl | C13H20ClO2P
